US07723348B2
4-(5-{4-Methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)benzonitrile (40.0 mg, 0.111 mmol), sodium azide (35.82 mg, 0.5510 mmol), ammonium chloride (29.5 mg, 0.552 mmol), and 1 mL of N,N-dimethylformamide were mixed in a 500 mL flask and heated under an atmosphere of N2 at 110° C. for 6 hours. The mixture was cooled to room temperature and poured into 5 mL of ice cold 3.0 M aqueous HCl. The precipitate was collected by vacuum filtration and washed with several portions of water. The solid was dried in vacuo overnight to give 20 mg (0.044 mmol, 40%) of 5-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]-1H-tetrazole as a yellow solid. LC/MS (EI) tR 3.52, m/z 405.1 (M++1) 1H NMR (CDCl3 300 MHz) δ 2.0 (m, 2H); 3.7-3.9 (m, 4H); 3.9 (s, 3H); 4.8 (m, 1H); 6.6 (s, 2H); 7.0 (d, 1H); 7.1 (d, 1H); 7.4 (d, 2H); 7.8 (d, 2H); 7.8 (s, 1H).

reactant | 4-(5-{4-Methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)benzonitrile | 0.111 mmol, 40.0 mg | COC1=C(C=C(C=C1)C1=CC=NN1C1=CC=C(C#N)C=C1)O[C@H]1COCC1 | C21H19N3O3
reactant | sodium azide | 0.5510 mmol, 35.82 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.552 mmol, 29.5 mg | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5-[4-(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)phenyl]-1H-tetrazole | 0.044 mmol, 20 mg, 40% | COC1=C(C=C(C=C1)C1=CC=NN1C1=CC=C(C=C1)C1=NN=NN1)O[C@H]1COCC1 | C21H20N6O3
